US09315458B2
B) methyl 5-(4-methoxybenzyl)-3,4-dimethyl-2-(((trifluoromethyl)sulfonyl)oxy)benzoate
To a mixture of methyl 2-hydroxy-5-(4-methoxybenzyl)-3,4-dimethylbenzoate (0.30 g), sodium hydride (0.05 g) and DMF (6.00 mL) was added N-phenylbis(trifluoromethanesulfonimide) (0.39 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.34 g).

reactant | methyl 2-hydroxy-5-(4-methoxybenzyl)-3,4-dimethylbenzoate | 0.30 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)CC1=CC=C(C=C1)OC | C18H20O4
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.39 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 6.00 mL | CN(C)C=O | C3H7NO
product | methyl 5-(4-methoxybenzyl)-3,4-dimethyl-2-(((trifluoromethyl)sulfonyl)oxy)benzoate | 0.34 g | COC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C)C)C=C1 | C19H19F3O6S
